US06864255B2
2-[3-(4-Chloro-[1,3,5]triazin-2-ylamino)-phenyl]-acetamide (136.5 mg, 0.5177 mmol) is combined with 2-chlorobenzimidazole (86.9 mg, 0.5177 mmol) and potassium carbonate (93 mg, 0.673 mmol) in AcCN (5 ml) and heated at 65-75° C. for 2 to 20 hours. The reaction mix is cooled to RT and the inorganic salts are filtered off. The AcCN solution is concentrated down under reduced pressure. The crude is purified on a silica gel column with an EtOAc/hexane to MeOH/CH2Cl2 elution gradient, giving 2-{3-[4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-ylamino]-phenyl}acetamide.

reactant | 2-[3-(4-Chloro-[1,3,5]triazin-2-ylamino)-phenyl]-acetamide | 0.5177 mmol, 136.5 mg | ClC1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)N | C11H10ClN5O
reactant | 2-chlorobenzimidazole | 0.5177 mmol, 86.9 mg | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | potassium carbonate | 0.673 mmol, 93 mg | C([O-])([O-])=O.[K+].[K+]
solvent | AcCN | 5 ml | C(=O)(C)C#N | C3H3NO
product | 2-{3-[4-(2-chloro-benzimidazol-1-yl)-[1,3,5]triazin-2-ylamino]-phenyl}acetamide | ClC1=NC2=C(N1C1=NC(=NC=N1)NC=1C=C(C=CC1)CC(=O)N)C=CC=C2 | C18H14ClN7O
